US04585774
32 Grams of 4-(3,4-dimethoxybenzoyl)piperazine and 13.1 g of potassium hydroxide were dissolved in 300 ml of dimethylformamide (DMF), then under an ice-cooled condition with stirring, 10 g of α-chloroacetic acid was added thereto, next the reaction mixture was heated at 50° C. for 5 hours with stirring. After completion of the reaction, the reaction mixture was concentrated to dryness, the residue obtained was dissolved in water. The solution obtained was washed with chloroform, the aqueous layer was neutralized with concentrated hydrochloric acid, crystals formed were collected by filtration to obtain 9.8 g of α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetic acid.

reactant | 4-(3,4-dimethoxybenzoyl)piperazine | COC=1C=C(C(=O)N2CCNCC2)C=CC1OC | C13H18N2O3
reactant | potassium hydroxide | 13.1 g | [OH-].[K+]
reactant | α-chloroacetic acid | 10 g | ClCC(=O)O | C2H3ClO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetic acid | 9.8 g | COC=1C=C(C(=O)N2CCN(CC2)CC(=O)O)C=CC1OC | C15H20N2O5
